US07205306B2
5-Chloro-3-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-1-[(1R)-2-methoxy-1-methylethyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-[(1R)-2-methoxy-1-methylethyl]-2(1H)-pyrazinone and 5,7-dichloroindoline as the starting materials. mp 93–95° C.; 1H NMR (300 MHz, CDCl3): δ 7.18 (s, 1 H), 7.11 (s, 1 H), 7.06 (s, 1 H), 4.35 (t, J=7.9 Hz, 2 H), 3.62–3.56 (m, 3 H), 3.36 (s, 3 H), 3.12 (t, J=8.1 Hz, 2 H), 0.90–0.86 (m, 3 H); HRMS (ESI) calcd for C16H17N3O2Cl3 (M+H)+: 388.0386; found m/z 388.0358.

reactant | 3,5-dichloro-1-[(1R)-2-methoxy-1-methylethyl]-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)[C@@H](COC)C)=O | C8H10Cl2N2O2
reactant | 5,7-dichloroindoline | ClC=1C=C2CCNC2=C(C1)Cl | C8H7Cl2N
product | 5-Chloro-3-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-1-[(1R)-2-methoxy-1-methylethyl]-2(1H)-pyrazinone | ClC=1N=C(C(N(C1)[C@@H](COC)C)=O)N1CCC2=CC(=CC(=C12)Cl)Cl | C16H16Cl3N3O2
